US07361678B2
Di-tert-butyl dicarbonate (7.5 g, 33.8 mmol) was added to a solution of 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride (3.8 g, 16.9 mmol), Et3N (9.42 mL, 67.6 mmol) and DMAP (0.1 g) dissolved in anhydrous THF (60 mL). After being stirred overnight at rt, the reaction mixture was treated with saturated NaHCO3 (50 mL), and the resulting mixture was extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine and dried (Na2SO4). The crude products were purified by flash chromatography (eluting with 10–20% EtOAc in hexanes) to give 2-BOC-7-nitro-1,2,3,4-tetrahydroisoquinoline (4.1 g).

reactant | Di-tert-butyl dicarbonate | 33.8 mmol, 7.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 16.9 mmol, 3.8 g | Cl.[N+](=O)([O-])C1=CC=C2CCNCC2=C1
reactant | Et3N | 67.6 mmol, 9.42 mL | CCN(CC)CC | C6H15N
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
catalyst | DMAP | 0.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-BOC-7-nitro-1,2,3,4-tetrahydroisoquinoline | 4.1 g | C(=O)(OC(C)(C)C)N1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C14H18N2O4
